US04963553
4-[[4-[(2,6-Dichlorophenyl)methyl]-1-piperazinyl]acetyl]-4.5-dihydro-6-methyl-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile, hydrochloride
A mixture of 1 g of 4-(chloroacetyl)-7-[3-(trifluoromethyl)phenyl]-4,5-dihydro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile, 1 g of 2,6-dichlorobenzylpiperazine, 600 mg of potassium carbonate and 100 ml of toluene was reacted as described in Example 16, giving the base form of the product, which was converted to the hydrochloride salt by the procedure of Example 97, giving 1.66 g, mp 252°-254° C.

reactant | 4-(chloroacetyl)-7-[3-(trifluoromethyl)phenyl]-4,5-dihydro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile | 1 g | ClCC(=O)N1C=2N(C(=C(C1)C)C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N | C17H12ClF3N4O
reactant | 2,6-dichlorobenzylpiperazine | 1 g | ClC1=C(CN2CCNCC2)C(=CC=C1)Cl | C11H14Cl2N2
reactant | potassium carbonate | 600 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[[4-[(2,6-Dichlorophenyl)methyl]-1-piperazinyl]acetyl]-4.5-dihydro-6-methyl-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile, hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)CN1CCN(CC1)CC(=O)N1C=2N(C(=C(C1)C)C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N | InChI=1S/C28H25Cl2F3N6O.ClH/c1-18-15-38(25(40)17-37-10-8-36(9-11-37)16-22-23(29)6-3-7-24(22)30)27-20(13-34)14-35-39(27)26(18)19-4-2-5-21(12-19)28(31,32)33;/h2-7,12,14H,8-11,15-17H2,1H3;1H
